US05360822
3'-(2-Bromoacetyl)-4'-fluoromethanesulfonanilide (30 g) was dissolved in 200 ml of N,N-dimethylformamide, a solution of 38 g of dibenzylamine in N,N-dimethylformamide was added with ice-cooling and stirring and the mixture was made to react at room temperature for 1 hour. The reaction mixture was added to water followed by extracting with ethyl acetate. The extract was washed with water, dried, the solvent was evaporated therefrom and the residue was crystallized from diisopropyl ether to give 35 g of 3'-(2-dibenzylaminoacetyl)-4'-fluoromethanesulfonanilide. The crystals were made into hydrochloride to give 35 g of crystals, m.p. 185°-188° C.

reactant | 3'-(2-Bromoacetyl)-4'-fluoromethanesulfonanilide | 30 g | BrCC(=O)C=1C=C(NS(=O)(=O)C)C=CC1F | C9H9BrFNO3S
reactant | dibenzylamine | 38 g | C(C1=CC=CC=C1)NCC1=CC=CC=C1 | C14H15N
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 3'-(2-dibenzylaminoacetyl)-4'-fluoromethanesulfonanilide | 35 g | C(C1=CC=CC=C1)N(CC(=O)C=1C=C(NS(=O)(=O)C)C=CC1F)CC1=CC=CC=C1 | C23H23FN2O3S
